* Pre-layout transient of transistor ring oscillator (mos_tt, 1.2 V).
* PDK .lib line is written by run_sim.sh into out/pdk.lib.
* lch is written by run_sim.sh into out/lch.param.
.include out/pdk.lib
.include out/lch.param
.include ../schematic/transistor_ring_oscillator.spice

.param pre_layout=1

Xdut out VPWR VGND trosc lch={lch}
vvdd VPWR 0 dc 1.2
vvss VGND 0 0
.ic v(xdut.n1)=1.2 v(out)=0 v(xdut.n2)=0

.control
  tran 20p 40n uic
  wrdata out/ring.dat v(out) v(xdut.n1) v(xdut.n2)
  write out/ring.raw v(out) v(xdut.n1) v(xdut.n2)
  meas tran t_r2 when v(out)=0.6 rise=2
  meas tran t_r12 when v(out)=0.6 rise=12
  print t_r2 t_r12
.endc
.end
